US08067362B2
17-[(2-tert-Butoxycarbonyl-ethyl)-carboxymethyl-carbamoyl]-heptadecanoic acid tert-butyl ester (0.130 g) was dissolved in dry DCM (5 ml). HOAt (0.36 mg) and DIC (0.045 ml) was added the mixture was refluxed for 1 h under nitrogen. The reaction mixture was cooled to room temperature and 5-amino-isophthalic acid mono t-Butyl ester (60 mg) was added. After stirring for 1 h DIPEA (0.050 ml) was added, the orange reaction mixture turns yellow. After stirring for 2 days, the reaction mixture was concentrated. The residue was redissolved in EtOAc and extracted with 0.1 N HCl (2×) and brine (1×), dried (Na2SO4), and concentrated to give an sirup, which solidifies on standing. 5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid mono-tert-butyl ester was obtained in a quantitative yield (214 mg), contaminated with an impurity. HPLC/MS 775 (M), rt 7.64 min.

reactant | 17-[(2-tert-Butoxycarbonyl-ethyl)-carboxymethyl-carbamoyl]-heptadecanoic acid tert-butyl ester | 0.130 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCC(N(CC(=O)O)CCC(=O)OC(C)(C)C)=O)=O | C31H57NO7
reactant | HOAt | 0.36 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIC | 0.045 ml | CC(N=C=NC(C)C)C | C7H14N2
reactant | 5-amino-isophthalic acid mono t-Butyl ester | 60 mg | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)N)=O | C12H15NO4
reactant | DIPEA | 0.050 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-{2-[(2-tert-Butoxycarbonyl-ethyl)-(17-tert-butoxycarbonyl-heptadecanoyl)-amino]-acetylamino}-isophthalic acid mono-tert-butyl ester | quantitative yield | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)NC(CN(C(CCCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CCC(=O)OC(C)(C)C)=O)=O | C43H70N2O10
